US04859662
1,2,3,9-Tetrahydro-6-methoxy-9-methyl-3-[(5-methyl-1H-imidazol-4-yl) methyl]-4H-carbazol-4-one
A solution of (E)-1,2,3,9-tetrahydro-6-methoxy-9-methyl-3-[(5-methyl-1H-imidazol-4-yl)methylene]-4H-carbazol-4-one (200 mg) in absolute ethanol (15 ml) was hydrogenated at room temperature and atmospheric pressure over a stirred suspension of 10% palladium oxide on carbon catalyst (50% aqueous paste; 100 mg) in absolute ethanol (5 ml). The mixture was filtered and evaporated to give a foam (ca. 200 mg) which was purified by FCC eluting with System A (200:10:1) to give the title compound (154 mg) as a solid, m.p. 227°-229°, t.l.c. (System A 200:10:1) RF 0.26.

reactant | (E)-1,2,3,9-tetrahydro-6-methoxy-9-methyl-3-[(5-methyl-1H-imidazol-4-yl)methylene]-4H-carbazol-4-one | 200 mg | COC=1C=C2C=3C(/C(/CCC3N(C2=CC1)C)=C/C=1N=CNC1C)=O | C19H19N3O2
solvent | ethanol | 15 ml | C(C)O | C2H6O
solvent | ethanol | 5 ml | C(C)O | C2H6O
catalyst | palladium oxide | [Pd]=O
product | 1,2,3,9-Tetrahydro-6-methoxy-9-methyl-3-[(5-methyl-1H-imidazol-4-yl) methyl]-4H-carbazol-4-one | ca. 200 mg | COC=1C=C2C=3C(C(CCC3N(C2=CC1)C)CC=1N=CNC1C)=O | C19H21N3O2
